US05587504
Synthesis of 4,4-dimethyl-2-(4'-tetrahydropyranyloxymethylbiphenyl-2-yl)oxazoline
Tetrahydrofuran (15 ml) was added to 1.2 g (49.4 mmol) of flaky magnesium, followed by the addition of a small amount of dibromoethane under stirring. After the confirmation of bubbling, a solution of 11.0 g (40.6 mmol) of 4-bromobenzyl-tetrahydropyranyl ether in tetrahydrofuran (15 ml) was dropwise added thereto. After the confirmation of the dissolution of the magnesium, the resulting mixture was further stirred at room temperature for one hour. Then, a solution of 7.0 g (34.1 mmol) of 4,4-dimethyl-2-(2'-methoxyphenyl)oxazoline in tetrahydrofuran (5 ml) was dropwise added thereto, followed by stirring for 12 hours. The reaction liquid was poured into a saturated aqueous solution of ammonium chloride, followed by the extraction with chloroform. After washing with water and drying, vacuum concentration was conducted. The residue was purified by silica gel column chromatography (a n-hexane/ethyl acetate system) to give 6.61 g of the title compound as an oil (yield 53%).

reactant | magnesium | 49.4 mmol, 1.2 g | [Mg] | Mg
reactant | dibromoethane | BrC(C)Br | C2H4Br2
reactant | 4-bromobenzyl-tetrahydropyranyl ether | 40.6 mmol, 11.0 g | BrC1=CC=C(CC2(OCCCC2)OC2(OCCCC2)CC2=CC=C(C=C2)Br)C=C1 | C24H28Br2O3
reactant | 4,4-dimethyl-2-(2'-methoxyphenyl)oxazoline | 34.1 mmol, 7.0 g | CC1(N=C(OC1)C1=C(C=CC=C1)OC)C | C12H15NO2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | Tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | 4,4-dimethyl-2-(4'-tetrahydropyranyloxymethylbiphenyl-2-yl)oxazoline | 6.61 g, yield 53% | CC1(N=C(OC1)C1=C(C=CC=C1)C1=CC=C(C=C1)COC1OCCCC1)C | C23H27NO3
